US07732435B2
8-Acetyl-3-(4-chlorophenyl)-7-hydroxy-2-isopropyl-chromen-4-one
3-(4-Chlorophenyl)-7-hydroxy-8-iodo-2-isopropyl-chromen-4-one (1.1 g, 2.5 mmol), 1,3-bis(diphenylphosphino)propane (206 mg, 0.5 mmol), palladium acetate (56 mg, 0.25 mmol) and potassium carbonate (380 mg, 2.75 mmol) are mixed in N-methyl-2-pyrrolidinone (10 ml) in a 20 ml capacity microwave tube. Water (2 ml) and butyl vinyl ether (1.62 ml, 12.5 mmol) are added, the tube is sealed, and the mixture is heated at 80° C. under microwave irradiation for 45 min. The mixture is cooled to room temperature, poured into water (30 ml) and extracted with ethyl acetate (3×50 ml). The ethyl acetate extracts are combined, washed with saturated brine (50 ml), dried (MgSO4), filtered and evaporated to give a brown solid. This is purified by chromatography on silica gel using cyclohexane/ethyl acetate (6:1) as eluant to give a colourless solid.

reactant | 3-(4-Chlorophenyl)-7-hydroxy-8-iodo-2-isopropyl-chromen-4-one | 2.5 mmol, 1.1 g | ClC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1=O)O)I)C(C)C | C18H14ClIO3
reactant | 1,3-bis(diphenylphosphino)propane | 0.5 mmol, 206 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | potassium carbonate | 2.75 mmol, 380 mg | C([O-])([O-])=O.[K+].[K+]
reactant | butyl vinyl ether | 12.5 mmol, 1.62 ml | C(=C)OCCCC | C6H12O
solvent | N-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
catalyst | palladium acetate | 0.25 mmol, 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 30 ml | O | H2O
solvent | Water | 2 ml | O | H2O
product | 8-Acetyl-3-(4-chlorophenyl)-7-hydroxy-2-isopropyl-chromen-4-one | C(C)(=O)C=1C(=CC=C2C(C(=C(OC12)C(C)C)C1=CC=C(C=C1)Cl)=O)O | C20H17ClO4
